US06476030B1
[1,2,4]Triazolo[1,5-a]pyrazine-2-carboxylic acid ethyl ester (0.75 g, 3.9 mmol) was hydrogenated on a Parr apparatus at 45 psi in dioxane (50 ml) over 10% palladium on carbon (0.75 g) in the presence of di-tert-butyl dicarbonate (0.85 g, 3.9 mmol) for 3 days. The catalyst was separated by filtration, and the filtrate was concentrated in vacuo. The residue was purified by passing through a plug of silica, eluting with 25% ethyl acetate in dichloromethane, yielding 5,6-dihydro-8H-[1,2,4]triazolo[1,5-a]pyrazine-2,7-dicarboxylic acid 7-tert-butyl ester 2-ethyl ester as a colourless oil (1.0 g). Data for the title compound: 1H NMR (360 MHz, CDCl3) δ 1.44 (3H, t, J=7.2 Hz), 1.50 (9H, s), 3.97 (2H, t, J=5.4 Hz), 4.29 (2H, t, J=5.5 Hz), 4.48 (2H, q, J=7.1 Hz), 4.80 (2H, s); MS (ES+) m/e 297 [MH]+.

reactant | [1,2,4]Triazolo[1,5-a]pyrazine-2-carboxylic acid ethyl ester | 3.9 mmol, 0.75 g | C(C)OC(=O)C1=NN2C(C=NC=C2)=N1 | C8H8N4O2
reactant | di-tert-butyl dicarbonate | 3.9 mmol, 0.85 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
catalyst | palladium on carbon | 0.75 g | [Pd] | Pd
product | 5,6-dihydro-8H-[1,2,4]triazolo[1,5-a]pyrazine-2,7-dicarboxylic acid 7-tert-butyl ester 2-ethyl ester | 1.0 g | CCOC(=O)C1=NN2C(CN(CC2)C(=O)OC(C)(C)C)=N1 | C13H20N4O4
